US08067445B2
Step 8: [2′-(1-Ethyl-3-methyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-acetic acid
To [2′-(1-ethyl-3-methyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.18 mmol) was added 1:1 1N aqueous LiOH: 1,4-dioxane (2 mL), and the reaction was stirred at room temperature for 30 minutes. 10% Aqueous HCl was added to acidify the solution to pH 3, and the mixture was extracted with EtOAc. The crude material was purified by silica gel chromatography to give the title compound. M+H is 463.

reactant | [2′-(1-ethyl-3-methyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 0.18 mmol | COC(CC=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NC)CC)=O | C22H22F6N2O3
reactant | LiOH | 1N | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | [2′-(1-Ethyl-3-methyl-ureidomethyl)-5,4′-bis-trifluoromethyl-biphenyl-3-yl]-acetic acid | C(C)N(C(=O)NC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)CC(=O)O | C21H20F6N2O3
